Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
unwitnessed fall 
 
Major Surgical or Invasive Procedure:
No major surgical or invasive procedures

 
History of Present Illness:
___ yo M with PMH of congenital deafness, HTN, osteoporosis who 
presents after unwitnessed fall in assisted living facility. He 
uses a walker and has had frequent falls which were being worked 
up as an outpatient. For this fall, he says he tripped, but he 
remembers the event and denies LOC. He was found on the floor 
sitting by the staff who called EMS. He hit his head on a 
picture he says. Apparently, he fell the night before but 
refused EMS at the time. Of note, he is being worked up as an 
outpatient for his frequent falls and the last neurology note 
suggested EMG and nerve conduction studies. They did not feel he 
fit a Parkinsonian picture but were concerned given his proximal 
muscle weakness and instability.  
.  
In the ED, initial VS were T 98.6, HR 75, BP 123/68, RR 18, 
O2sat 97% RA. He was given 1L IVF, tylenol for pain.  
.  
On the floor, he says he has some pain in his right shoulder but 
denies any other pain. No headache or change in vision. 
+incontinence of stool and urine which is chronic he says.  
.
On review of systems, denies fever, chills, night sweats, recent 
weight loss or gain. Denies headache, sinus tenderness, 
rhinorrhea or congestion. Denies cough, shortness of breath. 
Denies chest pain or tightness, palpitations. Denies nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias.  
 
Past Medical History:
Frequent falls.
Hypertension.
Osteoporosis.
Congenital deafness.
Macular degeneration.
Vitamin B12 deficiency.
Benign prostatic hypertrophy.
Urinary incontinence.
Insomnia.

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
VS: T 97.2, BP 142/75, HR 62, RR 18, O2sat 96% RA  
Gen: NAD lying flat with hard cervical collar in place. Patient 
tired and did not want to participate in much of the physical 
exam so neuro exam is limited.  
HEENT: Small laceration on left parietal area oozing blood but 
not very large. MMM, OP clear.
Neck: Not assessed given collar in place.  
Cor: RRR, no m/r/g  
Pulm: CTAB anteriorally. Did not roll him given fracture.  
Abd: +BS, soft, NT, ND, no HSM. 
Extrem: No C/C/E.
Neuro: CNIII-X and XII in tact except hearing- he reads lips. 
Did not assess XI given collar in place. Poor muscle bulk in 
arms and legs bilaterally. Left arm rigidity. Left arm and leg 
appeared maybe weaker than right but again difficult to assess 
given lack of good patient participation. Toes mute bilaterally. 
Bicep, brachioradialis and patellar reflexes intact. Sensation 
to light touch appears to be intact.  

 
Pertinent Results:
Admission Labs:
___ 06:55PM   WBC-7.2 RBC-3.30* HGB-12.3* HCT-34.4* 
MCV-104* MCH-37.2* MCHC-35.7* RDW-13.9
___ 06:55PM   NEUTS-78.0* LYMPHS-16.1* MONOS-5.3 EOS-0.3 
BASOS-0.3
___ 06:55PM   PLT COUNT-264
___ 06:55PM   GLUCOSE-115* UREA N-20 CREAT-0.9 SODIUM-130* 
POTASSIUM-4.4 CHLORIDE-96 TOTAL CO2-27 ANION GAP-11
___ 06:55PM   CK(CPK)-126
___ 06:55PM   cTropnT-<0.01
___ 06:55PM   CK-MB-5
___ 06:55PM   VIT B12-747 FOLATE-GREATER TH
___ 06:55PM   TSH-2.0
___ 06:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
.
Discharge Labs:
___ 06:55AM BLOOD WBC-5.0# RBC-3.04* Hgb-11.5* Hct-32.1* 
MCV-106* MCH-37.9* MCHC-35.9* RDW-13.9 Plt ___
___ 06:55AM BLOOD Glucose-99 UreaN-31* Creat-1.0 Na-133 
K-3.9 Cl-98 HCO3-29 AnGap-10
___ 06:55AM BLOOD Calcium-9.1 Phos-2.4* Mg-2.0
.
ECG ___  9:04:40 ___: Sinus rhythm. Borderline low voltage. 
Since the previous tracing of ___. RSR' pattern in lead V1 
is less apparent.
.
CT HEAD W/O CONTRAST ___ 3:57 ___: Stable microvascular 
ischemia. No acute intracranial process. 
.
SHOULDER (AP, NEUTRAL & AXILLARY) TRAUMA RIGHT ___ 8:15 ___: 
No acute fracture.
.
CT C-SPINE W/O CONTRAST Study Date of ___ 3:57 ___: The 
images are limited due to artifact from dental amalgam. There is 
a minimally displaced fracture at the junction of the right 
lamina and pars- interarticularis with vertical extension into 
the right superior and inferior articulating facets of the C7. 
.
MR CERVICAL SPINE W/O CONTRAST ___ 9:06 ___ (preliminary 
report): High STIR and T2 signal at the right C7 lamina is 
consistent with acute fracture. There is no evidence cord 
compression or edema. 
.
L-SPINE (AP & LAT) and T-spine ___ 9:24 AM: Compression 
deformity of the T8 vertebral body with loss of approximately 
20% of the anterior vertebral body height. Age of this is 
indeterminate. Also, thoracolumbar scoliosis and prominent 
degenerative changes of the lumbar spine, worse at L1-L2 which 
is stable since the ___ study. 
.
CT T-SPINE W/O CONTRAST ___ 6:05 ___ 
1. Mild-to-moderate compression fracture of the T8 vertebral 
body (20%
anteriorly and 40% in the mid portion), with increased density 
of the superiorportion adjacent to the superior endplate, likely 
related to compress trabeculae and hence may represent an acute 
fracture. However, further assessment of the chronicity can be 
performed with MRI including sagittal STIR sequence.
2. No lytic lesions, cortical discontinuity or retropulsion of 
the posterior part of the body, no canal compromise.
3. Mild multilevel degenerative changes in the thoracic spine 
and at L1/2 as described above.
4. Focal nodularity of the right diaphragmatic crura/adjacent 
muscles, which may represent a normal variant.
5. Multiple hypodense areas in the right kidney, which may 
represent cysts
but are not adequately assessed on the present study. Ultrasound 
can be
considered.

 
Brief Hospital Course:
___ year-old male with congenital deafness, macular degeneration, 
in process of work-up for frequent falls s/p new fall with C7 
fracture.
.
# Spinal fracture: The patient was found to have an acute C7 
articular process fracture, for which he was evaluated by 
Neurosurgery and placed in a hard cervical collar.  Imaging of 
the thoracic and lumbar spine showed a T8 compression fracture, 
which Neurosurgery thought was old as patient without point 
tenderness.  The patient will follow up with Dr. ___ on 
___ at 11:30am.  He will need to call Dr. ___ office to 
schedule cervical and thoracic spine x-rays to be taken prior to 
the appointment.
.  
# R shoulder pain: Patient complained of right shoulder pain 
during his hospitalization but later reported that it was 
present prior to his fall.  Shoulder x-ray showed degenerative 
changes but no fracture or dislocation.  Patient was placed on a 
standing dose of Tylenol for pain management which can be 
switched to prn dosing by PCP with improvement. 
.
# Frequent falls: The patient's fall is most likely mechanical, 
as supported by the history of tripping over a cord and denial 
of syncope or vertigo. There was no evidence of an acute cardiac 
event on this admission nor on prior work-up. He is currently in 
the process of an outpatient work-up by Neurology for possible 
motor neuron disease as etiology of his falls.  He is scheduled 
for an EMG and nerve conduction study as an outpatient on 
___, to follow-up with Dr. ___ on ___.
. 
# Hyponatremia: The patient presented with hyponatremia, likely 
secondary to hypovolemia and poor PO intake. Pt was given a 
liter of normal saline, diet liberalized, and increased po diet 
(especially fluids) with supplements encouraged with 
improvement.
.  
# HTN: Patient continued on atenolol.  Aspirin initially held in 
setting of possible surgery but restarted at home dose.
. 
# BPH with incontinence: Patient continued on oxybutynin.  Of 
note, although there was concern for orthostatic hypotension 
with this medication, pt was not found to be orthostatic on exam 
and has tolerated this medication in the past.  
.  
# Macrocytic anemia: The patient has a known B12 deficiency, and 
he was continued on his home supplements. His hematocrit 
remained at his baseline throughout his admission.
.
# Osteoporosis: Patient continued on calcium, vitamin D and 
Fosamax.  
.
# Depression: Stable on escitalopram.  
.  
# Insomnia: Patient restarted on home dose of trazodone, which 
he tolerated well.
.
# Gerontology: Patient scheduled to follow up with ___ 
___, NP on ___ at 2pm and Dr. ___ on ___.  

 
Medications on Admission:
Cyanocobalamin 1000 mcg daily
Lexapro 10 mg daily 
Vitamin D 400 units twice a day  
Atenolol 25 mg daily  
ASA 325mg at bedtime
Folic Acid ___ mcg twice a day  
Oxybutinin SR 5 mg daily
Colace 100 mg twice a day 
Senna ___ cap at bedtime 
Calcium Carbonate 500mg TID with meals  
Acetaminophen 650 mg at bedtime  
Trazodone 100 mg at bedtime 
Fosamax weekly  
 

MVI daily  

 

Metamucil 1 tbsp daily 
 
Discharge Medications:
1. Cyanocobalamin 500 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Escitalopram 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
4. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Oxybutynin Chloride 5 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  
9. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TIDAC (3 times a day (before meals)).  
10. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
12. Trazodone 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
13. Psyllium     Packet Sig: One (1) Packet PO DAILY (Daily).  
14. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week. 
 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- C7 fracture
Secondary:
- S/p multiple falls 
- Hypertension
- Congenital deafness
- Osteoporosis
- BPH with basline incontinence
- Macular degeneration

 
Discharge Condition:
Stable.

 
Discharge Instructions:
You were admitted to the hospital after you fell.  You were 
found to have a neck fracture on imaging.  You must keep your 
C-collar at all times while this heals - please do not remove it 
without first discussing with Dr. ___.  You also had an old 
compression fracture in your spine.  You will need to follow up 
with Neurosurgery for these issues and repeat x-rays prior to 
your visit.  Of note, although you were complaining of right 
shoulder pain, there was no evidence of a fracture.  You should 
continue to follow up with Neurology for work-up of your 
frequent falls.  

Your Tylenol was increased to 1000 mg three times a day for your 
right shoulder pain.  Once it improves, you may be able to take 
it only as needed - please discuss this with your doctor.  
Please continue to take all your home medications as prescribed. 
 

Please call your doctor or come to the ED if you have another 
fall, loss of consciousness, increasing neck or back pain, 
weakness or numbness in your extremities, or any other 
concerning symptoms.
 
Followup Instructions:
___